US08791108B2
(2S)-2-(tert-Butoxy)-2-(3-fluoro-2-((4-fluoro-3-methylbenzyl)carbamoyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid
To a solution of (2S)-ethyl 2-(tert-butoxy)-2-(3-fluoro-2-((4-fluoro-3-methylbenzyl)carbamoyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (22 mg, 0.034 mol, 1 equiv) in ethanol (0.46 mL) and water (0.23 mL) was added lithium hydroxide monohydrate (7.2 mg, 0.172 mmol, 5 equiv). The reaction was heated in an oil bath at 60° C. for 2 h. After cooling to ambient temperature, the reaction was filtered and loaded directly onto reverse phase HPLC (acetonitrile/TFA eluent). Desired compound was isolated as an off white solid (2.0 mg, 9% yield). 1H NMR (400 MHz, CDCl3) δ 7.19-7.14 (m, 1H), 7.14-7.09 (m, 1H), 7.08-7.03 (m, 1H), 6.99-6.92 (m, J=9.3 Hz, 1H), 6.84 (d, J=10.5 Hz, 1H), 5.05 (s, 1H), 4.56 (d, J=6.0 Hz, 2H), 4.33 (t, J=4.8 Hz, 2H), 2.75 (s, 3H), 2.74-2.71 (m, 2H), 2.26 (d, J=1.8 Hz, 3H), 2.20-2.12 (m, 2H), 1.87 (s, 3H), 1.20 (s, 9H); 19F NMR (376 MHz, CDCl3) δ −119.18 (s, 1F), −139.26 (s, 1F), −174.64 (s, 1F); LCMS (ESI, M+1): 611.4.

reactant | (2S)-ethyl 2-(tert-butoxy)-2-(3-fluoro-2-((4-fluoro-3-methylbenzyl)carbamoyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.034 mol, 22 mg, 1 equiv | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2F)C(NCC2=CC(=C(C=C2)F)C)=O)C | C34H37F3N4O5
reactant | lithium hydroxide monohydrate | 0.172 mmol, 7.2 mg, 5 equiv | O.[OH-].[Li+]
solvent | ethanol | 0.46 mL | C(C)O | C2H6O
solvent | water | 0.23 mL | O | H2O
product | (2S)-2-(tert-Butoxy)-2-(3-fluoro-2-((4-fluoro-3-methylbenzyl)carbamoyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2F)C(NCC2=CC(=C(C=C2)F)C)=O)C | C32H33F3N4O5
